US06780913B2
An aqueous solution was prepared by dissolving 72.5 g of boric acid (B2O3 content of 56.3%) in 1000 ml of pure water. To the aqueous solution were added 96.0 g of a zinc flower (ZnO content of 99.4%) and 217.5 g of boric acid (B2O3 content of 56.3%), and were stirred and mixed together such that the molar ratio of B2O3/ZnO was 2.0. Next, the solution was stirred and reacted at 60° C. for 90 minutes. The solution was further stirred and reacted at 90° C. for 4 hours. The obtained product was filtered, washed with water and was, then, dried at 105° C. to obtain a zinc borate (sample A-1). Table 3 shows the chemical composition and properties of the thus obtained zinc borate (sample A-1), FIG. 1 shows an X-ray diffraction image thereof, and FIGS. 2 and 3 show electron microphotographs thereof.

reactant | boric acid | 72.5 g | B(O)(O)O | BH3O3
reactant | zinc | 96.0 g | [Zn] | Zn
reactant | boric acid | 217.5 g | B(O)(O)O | BH3O3
solvent | water | 1000 ml | O | H2O
product | zinc borate | B([O-])([O-])[O-].[Zn+2].B([O-])([O-])[O-].[Zn+2].[Zn+2] | InChI=1S/2BO3.3Zn/c2*2-1(3)4;;;/q2*-3;3*+2
